US07205318B2
Cis-{3-[4-(2-Oxo-2H-pyridin-1-yl)-benzoylamino]-piperidin-4-yl}-carbamic acid benzyl ester (0.26 mmol) was dissolved in CH3CN (1.5 ml). Iodoisopropane (0.04 mL) was added, followed by the addition of Na2CO3 (70 mg). The resulting mixture was stirred at 80° C. overnight. After cooling, it was extracted with EtOAc (3×), dried over MgSO4, filtered, and concentrated to dryness to give crude cis-{1-isopropyl-3-[4-(2-oxo-2H-pyridin-1-yl)-benzoylamino]-piperidin-4-yl}-carbamic acid benzyl ester (115 mg).

reactant | Cis-{3-[4-(2-Oxo-2H-pyridin-1-yl)-benzoylamino]-piperidin-4-yl}-carbamic acid benzyl ester | 0.26 mmol | C(C1=CC=CC=C1)OC(N[C@@H]1[C@@H](CNCC1)NC(C1=CC=C(C=C1)N1C(C=CC=C1)=O)=O)=O | C25H26N4O4
reactant | Na2CO3 | 70 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH3CN | 1.5 ml | CC#N | C2H3N
product | cis-{1-isopropyl-3-[4-(2-oxo-2H-pyridin-1-yl)-benzoylamino]-piperidin-4-yl}-carbamic acid benzyl ester | 115 mg | C(C1=CC=CC=C1)OC(N[C@@H]1[C@@H](CN(CC1)C(C)C)NC(C1=CC=C(C=C1)N1C(C=CC=C1)=O)=O)=O | C28H32N4O4
